US03965108
6.2 g. of 4-sec.butylamino-6-mercapto-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester are dissolved in 50 ml. of acetic acid. Iron dust is added carefully at reflux temperature until the mixture is colorless. The excess of iron is filtered off and the filtrate is evaporated to dryness. The oily residue is dissolved in 10 ml. of methanol and precipitated by the addition of aqueous ammonia to obtain 5-amino-4-sec.butylamino-6-mercapto-2-methylpyridine-3-carboxylic acid, ethyl ester, yield 3 g. (53%); m.p. 88°-89° (ethyl acetate).

reactant | 4-sec.butylamino-6-mercapto-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester | C(C)(CC)NC1=C(C(=NC(=C1[N+](=O)[O-])S)C)C(=O)OCC | C13H19N3O4S
catalyst | Iron | [Fe] | Fe
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-amino-4-sec.butylamino-6-mercapto-2-methylpyridine-3-carboxylic acid, ethyl ester | NC=1C(=C(C(=NC1S)C)C(=O)OCC)NC(C)CC | C13H21N3O2S
